US07662778B2
(5) Synthesis of Boc-D-Tyr(Me)-L-Ile-L-Pro-OH
Boc-D-Tyr(Me)-L-Ile-L-Pro-OBzl (595 mg, 1.0 mmol) was dissolved in methanol (10 mL), Pd—C (200 mg) was added, and this mixture was stirred under hydrogen atmosphere for 3 hours. Pd—C was filtered off, and methanol was removed by evaporation to obtain the desired product as a foam. Yield: 380 mg (0.8 mmol, 80%).

reactant | Boc-D-Tyr(Me)-L-Ile-L-Pro-OBzl | 1.0 mmol, 595 mg | N([C@H](CC1=CC=C(C=C1)OC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C33H45N3O7
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | Boc-D-Tyr(Me)-L-Ile-L-Pro-OH | N([C@H](CC1=CC=C(C=C1)OC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C26H39N3O7
